US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(3,5-diaminophenyl)piperazine
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(3,5-dinitrophenyl)piperazine was dissolved in ethanol (30 ml) and thereto 10% palladium/carbon (10 mg) was added. The resulting mixture was hydrogenated for 4 hours, and then filtered to remove the 10% palladium/carbon. The filtrate was concentrated and purified by column chromatography to obtain the titled compound.

reactant | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(3,5-dinitrophenyl)piperazine | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C18H21N7O6
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 10 mg | [Pd] | Pd
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(3,5-diaminophenyl)piperazine | yield: 45.0% | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)N)N | C18H25N7O2
